MOSFET PWM 1kHz below LC resonance
Vdd 1 0 DC 12
Vgate g 0 PULSE(0 1 0 10n 10n 500u 1m)
SW1 1 2 g 0 MYSW
L1 2 3 1m
R1 3 4 100
C1 4 0 1u IC=0
.model MYSW SW(Ron=0.001 Roff=1Meg Vt=0.5)
.tran 20u 100m UIC
.meas tran vout_avg AVG V(4) FROM=80m TO=100m
.meas tran vout_pp  PP  V(4) FROM=80m TO=100m
.end
